US06376499B1
Step D: 3-Amino-6-aminomethyl-7-azaindazole
A mixture of 3-amino-6-azidomethyl-7-azaindazole (60 mg, 0.317 mmol), triphenylphosphine (416 mg, 1.59 mmol) and water (86 mg, 4.76 mmol) in THF (10 mL) was stirred for 64 h. The solvent was evaporated in vacuo and the residue was purified by chromatography on silica (chloroform/ammonia, methanol gradient, 5-10% methanol) to give the title compound as a yellow solid:

reactant | 3-amino-6-azidomethyl-7-azaindazole | 0.317 mmol, 60 mg | NC1=NNC2=NC(=CC=C12)CN=[N+]=[N-] | C7H7N7
reactant | triphenylphosphine | 1.59 mmol, 416 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 4.76 mmol, 86 mg | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-Amino-6-aminomethyl-7-azaindazole | NC1=NNC2=NC(=CC=C12)CN | C7H9N5
